US06849648B2
4-[(2-Amino-benzenesulfonylamino)-methyl]-benzoic acid tert-butyl ester (12.16 g, 33.5 mmol) was dissolved in 150 mL of acetic acid at 10° C. A solution of bromine (2.06 mL, 40.2 mmol) in 50 mL acetic acid was added dropwise. After complete addition, a thick yellow precipitate was observed. The reaction was filtered, and the solid washed with water. Chromatography of the solid (20% ethyl acetate/hexanes, SiO2) gave 5.72 g (39%) of 4-[(2-Amino-5-bromo-benzenesulfonylamino)-methyl]-benzoic acid tert-butyl ester as a white solid. 1H-NMR (CDCl3); 7.86 (d, 2H), 7.74 (d, 1H), 7.37 (dd, 1H), 7.23 (m, 2H), 6.65 (d, 1H), 5.19 (bt, 1H), 4.14 (d, 2H), and 1.58 (s, 9H). MS: M+=441.0 Da Step (4): Synthesis of 4-(7-Bromo-1,1,3-trioxo-3,4-dihydro-1H-1λ6-benzo[1,2,4]thiadiazin-2-ylmethyl)-benzoic acid tert-butyl ester

reactant | 4-[(2-Amino-benzenesulfonylamino)-methyl]-benzoic acid tert-butyl ester | 33.5 mmol, 12.16 g | C(C)(C)(C)OC(C1=CC=C(C=C1)CNS(=O)(=O)C1=C(C=CC=C1)N)=O | C18H22N2O4S
reactant | bromine | 40.2 mmol, 2.06 mL | BrBr | Br2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4-[(2-Amino-5-bromo-benzenesulfonylamino)-methyl]-benzoic acid tert-butyl ester | 5.72 g, 39% | C(C)(C)(C)OC(C1=CC=C(C=C1)CNS(=O)(=O)C1=C(C=CC(=C1)Br)N)=O | C18H21BrN2O4S
